US05726205
(2) trans-O-butyryl-4-(4-dimethylaminomethylphenyl)-cyclohexanol
from trans-4-(4-dimethylaminomethylphenyl)-cyclohexanol and butyric acid chloride/triethylamine. Colourless oil.

reactant | trans-4-(4-dimethylaminomethylphenyl)-cyclohexanol | CN(C)CC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)O | C15H23NO
reactant | butyric acid chloride triethylamine | C(CCC)(=O)Cl.C(C)N(CC)CC
product | trans-O-butyryl-4-(4-dimethylaminomethylphenyl)-cyclohexanol | C(CCC)(=O)O[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)CN(C)C | C19H29NO2
